US08492378B2
5-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-N-(4-methoxyphenyl)-2-nitroaniline
A mixture of 3-[(4-methoxyphenyl)amino]-4-nitrobenzohydrazide (1.60 g, 5.29 mmol), 3-(3-fluorophenyl)propionic acid (0.89 g, 5.29 mmol) and phosphorus oxychloride (5.29 mL) was stirred at 100° C. for 2 hr. The reaction mixture was cooled to 0° C., neutralized with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=3/1) to give the title compound (1.51 g, yield 69%) as orange crystals.

reactant | 3-[(4-methoxyphenyl)amino]-4-nitrobenzohydrazide | 5.29 mmol, 1.60 g | COC1=CC=C(C=C1)NC=1C=C(C(=O)NN)C=CC1[N+](=O)[O-] | C14H14N4O4
reactant | 3-(3-fluorophenyl)propionic acid | 5.29 mmol, 0.89 g | FC=1C=C(C=CC1)CCC(=O)O | C9H9FO2
reactant | phosphorus oxychloride | 5.29 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 5-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-N-(4-methoxyphenyl)-2-nitroaniline | 1.51 g, yield 69% | FC=1C=C(C=CC1)CCC1=NN=C(O1)C=1C=CC(=C(NC2=CC=C(C=C2)OC)C1)[N+](=O)[O-] | C23H19FN4O4
